US06323235B1
Methyl (3-(2-hydroxyethyl)-2-methylbenzofuran-7-yloxy)acetate
3-(2-hydroxyethyl)-7-methoxy-2-methylbenzofuran (2.34 g) was dissolved in DMF (60 ml) and potassium t-butoxide (2.71 g) and n-propanethiol (2.2 ml) were added to the solution, followed by stirring the resulting solution at 100° C. for 5 hours. The reaction mixture was cooled to room temperature and acetic acid (3 ml) was added. The reaction solution was concentrated, and poured into water layer (100 ml). The aqueous layer was extracted twice with ethyl acetate (50 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. Sodium sulfate was removed by filtration and the solvent was removed under reduced pressure. The obtained residue was dissolved in DMF (50 ml), and potassium carbonate (1.66 g ) and methyl bromoacetate (1.7 ml) were added, followed by stirring the resulting solution at room temperature for 17.5 hours. The reaction solution was concentrated and poured into water layer (100 ml), followed by extraction twice with ether (50 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1-1/1) using silica gel to obtain the desired compound (2.29 g, yield: 75%).

reactant | 3-(2-hydroxyethyl)-7-methoxy-2-methylbenzofuran | 2.34 g | OCCC1=C(OC2=C1C=CC=C2OC)C | C12H14O3
reactant | potassium t-butoxide | 2.71 g | CC(C)([O-])C.[K+]
reactant | n-propanethiol | 2.2 ml | C(CC)S | C3H8S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | Methyl (3-(2-hydroxyethyl)-2-methylbenzofuran-7-yloxy)acetate | 2.29 g, yield: 75% | OCCC1=C(OC2=C1C=CC=C2OCC(=O)OC)C | C14H16O5
